US05866560
7.4 g of 7α-(5-acetoxypentyl)-11β-fluoro-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one in 370 ml of methanol and 37 ml of water is stirred at room temperature with 1.8 g of potassium carbonate. After 3 hours, the reaction mixture is added to ice water. The precipitated product is suctioned off, dissolved in ethyl acetate, washed neutral with water, dried and concentrated by evaporation in a vacuum. 7.0 g of 11β-fluoro-7α-(5-hydroxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one is obtained as foam.

reactant | 7α-(5-acetoxypentyl)-11β-fluoro-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one | 7.4 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)OC1OCCCC1)F)=O | C30H41FO5
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 370 ml | CO | CH4O
solvent | water | 37 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-fluoro-7α-(5-hydroxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one | 7.0 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCO)OC1OCCCC1 | C28H39FO4
